US04370328
1-Chloro-6,7-dimethoxy phthalazine (2.25 g.), 3-hydroxymethylpiperidine (1.72 g.) and triethylamine (1.3 ml.) in iso-amyl alcohol (60 ml.) were heated at 95° C. for 42 hours. The cooled reaction mixture was then filtered and the filtrate was taken to dryness in vacuo. The residue was dissolved in water (100 ml.), 5 N sodium hydroxide solution was added to give a pH of 11 and the basic mixture was then extracted with chloroform (2×100 ml.). The chloroform extracts were combined, dried (MgSO4) and concentrated in vacuo to give a brown oil, which was triturated with ether (50 ml.) and filtered. The resultant solid was crystallized twice from acetonitrile, yielding 6,7-dimethoxy-1-(3-hydroxymethylpiperidino)phthalazine (1.83 g.), m.p. 162°-165° C.

reactant | 1-Chloro-6,7-dimethoxy phthalazine | 2.25 g | ClC1=NN=CC2=CC(=C(C=C12)OC)OC | C10H9ClN2O2
reactant | 3-hydroxymethylpiperidine | 1.72 g | OCC1CNCCC1 | C6H13NO
reactant | triethylamine | 1.3 ml | C(C)N(CC)CC | C6H15N
solvent | iso-amyl alcohol | 60 ml | C(CC(C)C)O | C5H12O
product | 6,7-dimethoxy-1-(3-hydroxymethylpiperidino)phthalazine | 1.83 g | COC=1C=C2C=NN=C(C2=CC1OC)N1CC(CCC1)CO | C16H21N3O3
